US05106845
A flask containing 1-methyl-2-methylthio-1,4,5,6-tetrahydropyrimidine hydroiodide (6.00 g, 2.20×10-2 mole) and 3,3-diphenylpropylamine (4.91 g, 2.32×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 150°-165° C. for 50 minutes. The resulting yellow glass was dissolved in methanol. The methanol was partially evaporated at reduced pressure and isopropanol was added. The evaporation was continued being stopped periodically for the addition of small portions of isopropanol. A solid formed which was subsequently collected by filtration. This material was dissolved in a two phase mixture of 5 molar aqueous NaOH (100 ml) and CH2Cl2 (100 ml). After stirring overnight, the CH2Cl2 layer was separated. The aqueous alkaline layer was extracted with CH2Cl2 (2×). The CH2Cl2 layers were combined, washed with H2O (2×), washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a colorless foam which was dissolved in methanol (50 ml). The solution was cooled to 0° C. before being treated with a methanolic solution of HCl. The methanol was partially evaporated at reduced pressure. 2-Butanone was added and the evaporation was continued on the steam bath until the temperature of the solution reached 78°-79° C. After cooling to room temperature, the solution deposited a solid which was collected by filtration. The product was recrystallized from methanol/2-butanone affording 2-(3,3-diphenyl-propylamino)-1-methyl-1,4,5,6-tetrahydropyrimidine hydroiodide as a colorless solid: 3.44 g (45%), m.p. 178°-180° C.

reactant | 1-methyl-2-methylthio-1,4,5,6-tetrahydropyrimidine hydroiodide | 2.20×10-2 mole, 6.00 g | I.CN1C(=NCCC1)SC
reactant | 3,3-diphenylpropylamine | 2.32×10-2 mole, 4.91 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(3,3-diphenyl-propylamino)-1-methyl-1,4,5,6-tetrahydropyrimidine hydroiodide | I.C1(=CC=CC=C1)C(CCNC=1N(CCCN1)C)C1=CC=CC=C1 | InChI=1S/C20H25N3.HI/c1-23-16-8-14-21-20(23)22-15-13-19(17-9-4-2-5-10-17)18-11-6-3-7-12-18;/h2-7,9-12,19H,8,13-16H2,1H3,(H,21,22);1H
